US07482341B2
Step C]: 2,4-Dichloro-N-[6-(3-chloro-benzyloxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(3-chloro-benzyloxymethyl)-pyridin-2-ylamine (0.08 g) and 2,4-dichloro-6-methyl-benzenesulfonyl chloride (0.092g) as a light yellow gum (0.039 g). MS (ESI−): 469.0 ([M−H]−).

reactant | 6-(3-chloro-benzyloxymethyl)-pyridin-2-ylamine | 0.08 g | ClC=1C=C(COCC2=CC=CC(=N2)N)C=CC1 | C13H13ClN2O
reactant | 2,4-dichloro-6-methyl-benzenesulfonyl chloride | 0.092g | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-[6-(3-chloro-benzyloxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC(=CC=C1)Cl | C20H17Cl3N2O3S
